US08486967B2
b) 1-(2-Methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride
To a solution of [1-(2-methyl-pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester (818.7 mg, 2.8 mmol) in CH2Cl2 (14 mL) was added at room temperature under stirring a 2 M HCl solution in diethyl ether (7 mL) and was stirred at room temperature over the weekend. The solvent was removed under reduced pressure and the residue was treated twice with diethyl ether. The title compound was obtained after removal of the solvent under reduced pressure as a light brown solid (869 mg, 100%)

reactant | [1-(2-methyl-pyrimidin-4-yl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 2.8 mmol, 818.7 mg | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC(=NC=C1)C)=O | C15H24N4O2
reactant | HCl | 2 M | Cl | ClH
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 7 mL | C(C)OCC | C4H10O
product | 1-(2-Methyl-pyrimidin-4-yl)-piperidin-4-ylamine dihydrochloride | Cl.Cl.CC1=NC=CC(=N1)N1CCC(CC1)N | InChI=1S/C10H16N4.2ClH/c1-8-12-5-2-10(13-8)14-6-3-9(11)4-7-14;;/h2,5,9H,3-4,6-7,11H2,1H3;2*1H
